US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(piperidin-1-ylcarbonyl)piperidin-4-yl]benzamide
A solution of piperidine-1-carbonyl chloride (0.033 g, 0.224 mmol) in N-methyl-2-pyrrolidinone (1 mL) was treated with N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide (0.05 g, 0.150 mmol) and triethylamine (0.042 ml, 0.299 mmol) and the reaction mixture was stirred at room temperature for 18 hours. The mixture was purified by reverse-phase HPLC to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.24 (t, J=5.9 Hz, 1H), 8.84 (d, J=7.0 Hz, 1H), 8.30 (d, J=2.1 Hz, 1H), 8.13 (d, J=2.1 Hz, 1H), 7.91-7.84 (m, 2H), 7.76 (s, 1H), 7.50-7.44 (m, 1H), 7.42-7.36 (m, 2H), 4.67 (d, J=5.8 Hz, 2H), 3.71-3.62 (m, 2H), 3.16-3.10 (m, 4H), 2.89-2.68 (m, 3H), 1.81-1.72 (m, 2H), 1.68-1.44 (m, 8H); MS (ESI(+)) m/e 446 (M+H)+.

reactant | piperidine-1-carbonyl chloride | 0.224 mmol, 0.033 g | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide | 0.150 mmol, 0.05 g | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C20H22N4O
reactant | triethylamine | 0.299 mmol, 0.042 ml | C(C)N(CC)CC | C6H15N
solvent | N-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(piperidin-1-ylcarbonyl)piperidin-4-yl]benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCN(CC2)C(=O)N2CCCCC2)=O | C26H31N5O2
